US07345068B2
2,6-Lutidine (1.83 ml, 15.7 mmol) and trifluoro-methanesulfonic anhydride (3.67 g, 13 mmol) were added dropwise in turn to a solution of methyl ester of 5-chloro-3-nitrosalicylic acid (2.32 g, 10.0 mmol) in methylene chloride (25 ml) with stirring under ice cooling and the mixture was stirred under ice cooling for 0.5 hrs. Methylene chloride (20 ml) and ice water (30 ml) were added to the reaction mixture and the aqueous layer was separated and extracted with methylene chloride. The organic layers were combined, washed with water and dried. The solvent was distilled off under reduced pressure and the residue was purified by column chromatography on silica gel (n-hexane/ethyl acetate=10) to give methyl ester of 5-chloro-2-trifluoromethanesulfonyloxy-3-nitrobenzoic acid (3.33 g, 91%) as a pale yellow oil.

reactant | 2,6-Lutidine | 15.7 mmol, 1.83 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | trifluoro-methanesulfonic anhydride | 13 mmol, 3.67 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 5-chloro-3-nitrosalicylic acid | 10.0 mmol, 2.32 g | ClC1=CC(=C(C(C(=O)O)=C1)O)[N+](=O)[O-] | C7H4ClNO5
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | Methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 5-chloro-2-trifluoromethanesulfonyloxy-3-nitrobenzoic acid | 3.33 g, 91% | ClC=1C=C(C(=C(C(=O)O)C1)OS(=O)(=O)C(F)(F)F)[N+](=O)[O-] | C8H3ClF3NO7S
